US05319096
a. 2-[[(3-Methyl-1H-indol-1-yl)amino]carbonyl]benzoic acid
A suspension of 2.0 g of N-amino-3-methylindole, 140 ml of dry chloroform and 2.74 g of phthalic anhydride was stirred at reflux for 4 hours. The suspension was allowed to cool to room temperature, concentrated to approximately 50 ml, filtered and the residue washed with chloroform to provide 4.25 g of a white solid. Recrystallization from ethyl acetate provided 3.18 g (79.0%) of 2-[[(3-methyl(indol-1-yl)amino]carbonyl]benzoic acid, m.p. 191°-193° C.

reactant | N-amino-3-methylindole | 2.0 g | NN1C=C(C2=CC=CC=C12)C | C9H10N2
reactant | phthalic anhydride | 2.74 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[[(3-Methyl-1H-indol-1-yl)amino]carbonyl]benzoic acid | 4.25 g | CC1=CN(C2=CC=CC=C12)NC(=O)C1=C(C(=O)O)C=CC=C1 | C17H14N2O3
